2118-05-17 07:42:00 Physician Resident Progress Note
Chief Complaint: Altered mental status
   Hypercarbic respiratory failure
   24 Hour Events:
 INVASIVE VENTILATION - START [**2118-5-16**] 10:30 PM
 MULTI LUMEN - START [**2118-5-16**] 10:38 PM
   .
   Weaned to 50% FiO2 and PEEP 5
   .
   Seems to be following some commands
   History obtained from Medical records
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-5-17**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.9
   HR: 66 (66 - 80) bpm
   BP: 141/59(81) {106/51(68) - 141/78(86)} mmHg
   RR: 16 (16 - 18) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,434 mL
                                                                     77 mL
   PO:
             TF:
   IVF:
                                                                     34 mL
                                                                     77 mL
   Blood products:
   Total out:
                                                                    825 mL
                                                                    438 mL
   Urine:
   438 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,609 mL
                                                                   -361 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 48
   PIP: 22 cmH2O
   Plateau: 11 cmH2O
   SpO2: 97%
   ABG: 7.44/65/209/39/17
   Ve: 7.9 L/min
   PaO2 / FiO2: 418
   Physical Examination
   GENERAL: Intubated, R arm tremor when stimulated, also bites on tube
   HEENT: Normocephalic, ecchymoses below bilateral eyes  No conjunctival
   pallor. No scleral icterus. Pupils 3->2 mm bilaterally. MMM. ETT in
   place.  RIJ in place.
   CARDIAC: Distant heart sounds, reg, no g/m/r, nl S1, S2
   LUNGS: CTAB, good air movement biaterally, no wheezes
   ABDOMEN: NABS. Soft, NT, mildly distended.  No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: opened eyes to neuro resident command (not mine), able to show 2
   fingers on L and squeeze
   GU: foley catheter placed that is draining blood-tinged urine
   Labs / Radiology
   142 K/uL
   10.0 g/dL
   138 mg/dL
   0.7 mg/dL
   39 mEq/L
   4.2 mEq/L
   20 mg/dL
   95 mEq/L
   142 mEq/L
   31.3 %
   4.9 K/uL
        [image002.jpg]
                             [**2118-5-16**]  09:34 PM
                             [**2118-5-17**]  04:18 AM
   WBC
   4.9
   Hct
   31.3
   Plt
   142
   Cr
   0.7
   TCO2
   46
   Glucose
   138
   Other labs: PT / PTT / INR:14.7/26.8/1.3, Lactic Acid:1.1 mmol/L,
   Ca++:8.4 mg/dL, Mg++:1.5 mg/dL, PO4:2.5 mg/dL
   Microbiology: [**5-16**] Blood cx w/ ngtd
   [**5-17**] urine cx pending
   [**5-17**] MRSA screen pending
   [**2118-5-17**] 12:03 am SPUTUM     Site: ENDOTRACHEAL
      GRAM STAIN (Final [**2118-5-17**]):
         [**10-23**] PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS, CHAINS, AND CLUSTERS.
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S).
      RESPIRATORY CULTURE (Preliminary):
   Assessment and Plan
   75 M w/ pmh of COPD on home O2, presents en-route to pulmonary
   appointment w/ hypercarbic respiratory failure.
   .
   #. Hypercarbic respiratory failure: Unclear precipitant, i.e, did
   altered mental status cause hypercarbia or did hypercarbia cause
   altered mental status.  Clearly also has a chronic respiratory
   acidosis.  Is on depakote, olanzapine that are sedating but these are
   not new.  No narcotics in his medication list and did not respond to
   narcan in the ED.  ? from COPD exacerbation as it appears from his
   notes that he has recently been treated w/ a steroid taper (unclear
   when he started/stopped it).  Has a RLL mucus plug but no obvious
   infiltrates.  Does have a history of alcohol abuse but no h/o of liver
   disease.  No obvious electrolyte abnormalities apart from elevated
   bicarb.  OMR notes indicate that he has been quite somnolent during his
   outpatient visits, even in [**Month (only) 572**].
   - check urine and serum tox
   - treat for COPD exacerbation w/ levofloxacin and methylprednisolone
   - wean vent as tolerated, but he is on O2 at home continuously
   - albuterol/ipratroprium nebs, spiriva
   .
   #. Altered mental status: Again, unclear precipitant.  ? from
   hypercarbia.  Head CT w/o trauma or acute process.  Electrolytes
   unremarkable.  Did not respond to narcan as above.
   - tox screen
   - LFTs w/ bilirubin
   - propofol for sedation to monitor MS [**First Name (Titles) **] [**Last Name (Titles) **] tolerates
   - hold olanzapine for now
   .
   #. Seizure d/o: depakote
   .
   #. Anemia: Normocytic, close to baseline 2 days ago w/o active
   bleeding.
   - trend for now
   .
   #. Hematuria: Apparently a non-traumatic foley placement but occurred
   after foley was placed.  Appears to be clearing.
   - trend for now w/ [**Hospital1 7**] hcts
   .
   #. Carotid stenosis/CAD?: continue ASA, plavix, statin
   .
   #. ? Cystitis on CT pelvis: UA w/ borderline UTI.  CBC w/o WBC
   elevation but mild L-shift.
   - add-on U cx
   - UTI would be treated with levofloxacin above
   .
   #. DM2: on sliding scale regular at rehab.  BS likely to be elevated in
   the setting of steroids.
   - ss humalog w/ fs qid
   .
   #. HTN: BP transiently low in the setting of intubation.  Now off of
   dopamine w/ SBP 150.
   - hold antihypertensives for now
   .
   #. Afib: by history.  Currently in sinus rhythm.  Not anticoagulated.
   -  monitor on tele.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Multi Lumen - [**2118-5-16**] 10:38 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2118-05-18 07:32:00 Physician Resident Progress Note
Chief Complaint: Altered mental status
   Hypercarbic respiratory failure
   24 Hour Events:
 EEG - At [**2118-5-17**] 02:38 PM
   .
   - Son [**Name (NI) 1053**] contact person, unable to reach but left message (#
   [**Telephone/Fax (1) 7652**])
   - T4/T3 pending, PM Hct stable
   - Resistence 17
   - Tolerated PSV well and settings weaned, also awakened more in the
   evening
   - Prepared for potential extubation this AM [**5-18**]
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2118-5-18**] 12:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2118-5-17**] 08:30 PM
   Midazolam (Versed) - [**2118-5-17**] 08:30 PM
   Heparin Sodium (Prophylaxis) - [**2118-5-18**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-5-18**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.9
C (98.4
   HR: 53 (53 - 82) bpm
   BP: 138/65(84) {103/48(60) - 181/75(118)} mmHg
   RR: 11 (9 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 70 Inch
             Total In:
                                                                    346 mL
                                                                    362 mL
   PO:
             TF:
                                                                    105 mL
                                                                      8 mL
   IVF:
                                                                    241 mL
                                                                    175 mL
   Blood products:
   Total out:
                                                                  1,518 mL
                                                                    375 mL
   Urine:
                                                                  1,518 mL
                                                                    375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,172 mL
                                                                    -13 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 258 (258 - 719) mL
   PS : 12 cmH2O
   RR (Set): 10
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 53
   PIP: 18 cmH2O
   Plateau: 14 cmH2O
   SpO2: 100%
   ABG: ///37/
   Ve: 5.8 L/min
   Physical Examination
   GENERAL: Intubated and sedated, did not follow commands but opened eyes
   to voice, whole body tremor when stimulated
   HEENT: Normocephalic, ecchymoses below bilateral eyes  No conjunctival
   pallor. No scleral icterus. PERRL. MMM. ETT in place.  RIJ in place.
   CARDIAC: Distant heart sounds, reg, no g/m/r, nl S1, S2
   LUNGS: CTAB, good air movement biaterally, no wheezes
   ABDOMEN: NABS. Soft, NT, mildly distended.  No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis pulses.
   SKIN: No rashes/lesions, ecchymoses.
   Labs / Radiology
   146 K/uL
   9.5 g/dL
   103 mg/dL
   0.7 mg/dL
   37 mEq/L
   4.2 mEq/L
   17 mg/dL
   97 mEq/L
   138 mEq/L
   29.3 %
   4.7 K/uL
        [image002.jpg]
                             [**2118-5-16**]  09:34 PM
                             [**2118-5-17**]  04:18 AM
                             [**2118-5-17**]  03:20 PM
                             [**2118-5-18**]  03:45 AM
   WBC
   4.9
   4.7
   Hct
   31.3
   29.6
   29.3
   Plt
   142
   146
   Cr
   0.7
   0.7
   TCO2
   46
   Glucose
   138
   103
   Other labs: PT / PTT / INR:14.7/26.8/1.3, Lactic Acid:1.6 mmol/L,
   Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   Imaging: [**5-17**] Port CXR
   FINDINGS: In comparison with study of [**5-16**], the endotracheal tube tip
   now
   lies approximately 3 cm above the carina. The hemidiaphragms are not
   well
   seen, consistent with atelectasis and layering effusions bilaterally.
   Nasogastric tube and central catheter remain in place.
   Of incidental note is again are multiple old healed rib fractures
   bilaterally.
   Microbiology: [**5-16**] Blood cx X 2 w/ NGTD
   [**5-17**] Urine cx w/ ngtd
   [**5-17**] MRSA screen pending
   [**2118-5-17**] 12:03 am SPUTUM     Site: ENDOTRACHEAL
      GRAM STAIN (Final [**2118-5-17**]):
         [**10-23**] PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS, CHAINS, AND CLUSTERS.
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S).
   ASSESSMENT AND PLAN: 75 M w/ pmh of COPD on home O2, presents en-route
   to pulmonary appointment w/ hypercarbic respiratory failure.
   .
   #. Hypercarbic respiratory failure: Improved last night so needed
   sedation.  Still unclear precipitant.  EEG w/o seizure on prelim read.
   Unclear precipitant, i.e, did altered mental status cause hypercarbia
   or did hypercarbia cause altered mental status.  Clearly also has a
   chronic respiratory acidosis.  Is on depakote, olanzapine that are
   sedating but these are not new.  No narcotics in his medication list
   and did not respond to narcan in the ED.  ? from COPD exacerbation as
   it appears from his notes that he has recently been treated w/ a
   steroid taper (unclear when he started/stopped it).  Has a RLL mucus
   plug but no obvious infiltrates.  Does have a history of alcohol abuse
   but no h/o of liver disease.  No obvious electrolyte abnormalities
   apart from elevated bicarb.  OMR notes indicate that he has been quite
   somnolent during his outpatient visits, even in [**Month (only) 572**].  Urine and serum
   tox unremarkable.
   - treat for COPD exacerbation w/ levofloxacin and switched from
   methylprednisolone to prednisone taper yesterday
   - RISBE excellent this am so will try to extubate
   .
   #. Altered mental status: Again, unclear precipitant.  ? from
   hypercarbia.  Head CT w/o trauma or acute process.  Electrolytes
   unremarkable.  Did not respond to narcan as above.
   - tox screen
   - LFTs w/ bilirubin
   - propofol for sedation to monitor MS [**First Name (Titles) **] [**Last Name (Titles) **] tolerates
   .
   #. Anemia: Normocytic, close to baseline 2 days ago w/o active
   bleeding.
   - trend for now
   .
   #. Hematuria: Apparently a non-traumatic foley placement but occurred
   after foley was placed.  Appears to be clearing.
   - trend for now w/ [**Hospital1 7**] hcts
   .
   #. ? Cystitis on CT pelvis: UA w/ borderline UTI.  CBC w/o WBC
   elevation but mild L-shift.
   - add-on U cx
   - UTI would be treated with levofloxacin above
   .
   #. DM2: on sliding scale regular at rehab.  BS likely to be elevated in
   the setting of steroids.
   - ss humalog w/ fs qid
   .
   #. HTN: BP transiently low in the setting of intubation.  Now off of
   dopamine w/ SBP 150.
   - hold antihypertensives for now
   .
   #. Afib: by history.  Currently in sinus rhythm.  Not anticoagulated.
   -  monitor on tele.
   ICU Care
   Nutrition: Fibersource HN Full strength TF
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Multi Lumen - [**2118-5-16**] 10:38 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2118-05-18 10:42:00 Physician Attending Progress Note
Chief Complaint: resp failure
   HPI:
   75M with copd on home O2, presented with hypercarbic resp failure,
   altered mental status
   24 Hour Events:
 EEG - At [**2118-5-17**] 02:38 PM
   eeg - no sz activity.
   extubated this am.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2118-5-18**] 12:00 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2118-5-17**] 08:30 PM
   Fentanyl - [**2118-5-17**] 08:30 PM
   Heparin Sodium (Prophylaxis) - [**2118-5-18**] 08:30 AM
   Other medications:
   simva, plavic, levoflox, riss, lansopr, montelukast, depakote,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Signs or concerns for abuse : NoPain: No pain / appears comfortable
   Flowsheet Data as of  [**2118-5-18**] 10:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.3
C (97.3
   HR: 78 (53 - 82) bpm
   BP: 151/67(88) {103/48(60) - 165/75(118)} mmHg
   RR: 26 (9 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                    346 mL
                                                                    483 mL
   PO:
             TF:
                                                                    105 mL
                                                                      8 mL
   IVF:
                                                                    241 mL
                                                                    205 mL
   Blood products:
   Total out:
                                                                  1,518 mL
                                                                    560 mL
   Urine:
                                                                  1,518 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,172 mL
                                                                    -77 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   Ventilator mode: Standby
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 386 (258 - 719) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 53
   PIP: 0 cmH2O
   Plateau: 14 cmH2O
   SpO2: 94%
   ABG: ///37/
   Ve: 6.9 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Wheezes : minimal), better breath sounds
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   146 K/uL
   103 mg/dL
   0.7 mg/dL
   37 mEq/L
   4.2 mEq/L
   17 mg/dL
   97 mEq/L
   138 mEq/L
   29.3 %
   4.7 K/uL
        [image002.jpg]
                             [**2118-5-16**]  09:34 PM
                             [**2118-5-17**]  04:18 AM
                             [**2118-5-17**]  03:20 PM
                             [**2118-5-18**]  03:45 AM
   WBC
   4.9
   4.7
   Hct
   31.3
   29.6
   29.3
   Plt
   142
   146
   Cr
   0.7
   0.7
   TCO2
   46
   Glucose
   138
   103
   Other labs: PT / PTT / INR:14.7/26.8/1.3, Lactic Acid:1.6 mmol/L,
   Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   Imaging: cxr: improved / unchaged L base opacity
   Microbiology: sputum:
   [**10-23**] PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS, CHAINS, AND CLUSTERS.
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S).
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   75M with copd on home O2, presented with altered mental status and
   hypercarbic respiratory failure. Not clear what came first but makes
   most sense that COPD exacerbation is the primary insult:
   copd exac:
   -review psychoactive home meds when more stable
   -cont steroids and nebs
   -cont levoflox
   -vbg
   altered mental status: likely copd exac
   -review psych meds
   ICU Care
   Nutrition: S/S evaluation when stable
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2118-5-16**] 10:38 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor later today if stable
   Total time spent: 35 minutes
   Patient is critically ill

2118-05-19 07:58:00 Physician Resident Progress Note
Chief Complaint: shortness of breath, altered mental status
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2118-5-18**] 09:05 AM
 MULTI LUMEN - STOP [**2118-5-18**] 04:23 PM
   - Extubated, did well, advanced diet
   - Pulled off line dressing, central line removed by RN, PIV placed
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2118-5-18**] 11:56 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2118-5-18**] 11:56 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-5-19**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.6
C (96
   HR: 63 (59 - 88) bpm
   BP: 151/61(85) {130/51(72) - 186/80(105)} mmHg
   RR: 26 (16 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  1,852 mL
                                                                    270 mL
   PO:
                                                                  1,160 mL
                                                                    200 mL
   TF:
                                                                      8 mL
   IVF:
                                                                    415 mL
                                                                     70 mL
   Blood products:
   Total out:
                                                                  2,190 mL
                                                                  1,270 mL
   Urine:
                                                                  2,190 mL
                                                                  1,270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -338 mL
                                                                 -1,001 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 386 (386 - 500) mL
   PS : 5 cmH2O
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 0 cmH2O
   SpO2: 97%
   ABG: ///37/
   Ve: 6.9 L/min
   Physical Examination
   Gen: awake, alert
   HEENT: Normocephalic, ecchymoses below bilateral eyes  No conjunctival
   pallor. No scleral icterus. PERRL. MMM. ETT in place.  Supple, neck
   site clean
   CARDIAC: Distant heart sounds, reg, no g/m/r, nl S1, S2
   LUNGS: CTAB, good air movement biaterally, no wheezes
   ABDOMEN: NABS. Soft, NT, mildly distended.  No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis pulses.
   SKIN: No rashes/lesions, ecchymoses.
   Labs / Radiology
   153 K/uL
   9.9 g/dL
   91 mg/dL
   0.8 mg/dL
   37 mEq/L
   4.2 mEq/L
   16 mg/dL
   101 mEq/L
   141 mEq/L
   31.2 %
   5.1 K/uL
        [image002.jpg]
                             [**2118-5-16**]  09:34 PM
                             [**2118-5-17**]  04:18 AM
                             [**2118-5-17**]  03:20 PM
                             [**2118-5-18**]  03:45 AM
                             [**2118-5-19**]  03:39 AM
   WBC
   4.9
   4.7
   5.1
   Hct
   31.3
   29.6
   29.3
   31.2
   Plt
   142
   146
   153
   Cr
   0.7
   0.7
   0.8
   TCO2
   46
   Glucose
   138
   103
   91
   Other labs: PT / PTT / INR:14.7/26.8/1.3, Lactic Acid:1.6 mmol/L,
   Ca++:8.8 mg/dL, Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Blood cx [**5-16**]: NGTD
   Sputum: 2+ GPCs, 1+ GPRs
   Urine: 10-100K yeast
   CXR [**5-18**]:
   The ET tube has its tip approximately 36 mm from the carina. The NG
   tube
   traverses a course over the anticipated course of the esophagus, the
   distal
   tip is not covered on this radiograph and most likely has its tip
   projected
   over the stomach. The right-sided central line is projected over the
   cavoatrial junction. There is stable appearance to the bilateral old
   healed
   rib fractures. There are stable calcified granulomas in the right upper
   and
   mid zones likely sequelae of prior granulomatous infection. There is
   minimal
   atelectasis at the lung bases. There is blunting of the left
   costophrenic
   angle, suggestive of a small left basal effusion. There is no focal
   pulmonary
   consolidation seen.
   Assessment and Plan
 HYPERTENSION, BENIGN
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   ASSESSMENT AND PLAN: 75 M w/ pmh of COPD on home O2, presents en-route
   to pulmonary appointment w/ hypercarbic respiratory failure.
   .
   #. Hypercarbic respiratory failure:
   Much improved, now extubated.
   Unclear precipitant, i.e, did altered mental status cause hypercarbia
   or did hypercarbia cause altered mental status.  Clearly also has a
   chronic respiratory acidosis.  Is on depakote, olanzapine that are
   sedating but these are not new.  No narcotics in his medication list
   and did not respond to narcan in the ED.  ? from COPD exacerbation as
   it appears from his notes that he has recently been treated w/ a
   steroid taper (unclear when he started/stopped it).  Has a RLL mucus
   plug but no obvious infiltrates.  Does have a history of alcohol abuse
   but no h/o of liver disease.  No obvious electrolyte abnormalities
   apart from elevated bicarb.  OMR notes indicate that he has been quite
   somnolent during his outpatient visits, even in [**Month (only) 572**].  Urine and serum
   tox unremarkable.
   - treat for COPD exacerbation w/ levofloxacin and switched from
   methylprednisolone to prednisone taper yesterday. Taper to 40 starting
   in AM
   .
   #. Altered mental status:
   Probably [**1-31**] hypercarbia vs meds, now improved.  Head CT w/o trauma or
   acute process.  Electrolytes unremarkable.  Did not respond to narcan
   as above.
   - tox screen
   - LFTs w/ bilirubin
   - propofol for sedation to monitor MS [**First Name (Titles) **] [**Last Name (Titles) **] tolerates
   .
   #. Anemia: Normocytic, close to baseline 2 days ago w/o active
   bleeding.
   - trend for now
   .
   #. Hematuria: Apparently a non-traumatic foley placement but occurred
   after foley was placed.  Appears to be clearing.
   - trend for now w/ [**Hospital1 7**] hcts
   .
   #. ? Cystitis on CT pelvis: UA w/ borderline UTI.  CBC w/o WBC
   elevation but mild L-shift.
   - f/u urine culture
   .
   #. DM2: on sliding scale regular at rehab.  BS likely to be elevated in
   the setting of steroids.
   - ss humalog w/ fs qid
   .
   #. HTN: BP transiently low in the setting of intubation.  Now off of
   dopamine w/ SBP 150.
   - hold antihypertensives for now
   .
   #. Afib: by history.  Currently in sinus rhythm.  Not anticoagulated.
   -  monitor on tele.
   ICU Care
   Nutrition: oral intake
   Glycemic Control:  ISS
   Lines:
   20 Gauge - [**2118-5-18**] 07:08 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to floor

2118-05-19 12:21:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2118-5-18**] 09:05 AM (Extubated)
 MULTI LUMEN - STOP [**2118-5-18**] 04:23 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2118-5-18**] 11:56 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2118-5-18**] 11:56 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-5-19**] 12:20 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 62 (62 - 88) bpm
   BP: 139/53(74) {130/51(72) - 186/92(107)} mmHg
   RR: 25 (16 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  1,852 mL
                                                                    763 mL
   PO:
                                                                  1,160 mL
                                                                    650 mL
   TF:
                                                                      8 mL
   IVF:
                                                                    415 mL
                                                                    113 mL
   Blood products:
   Total out:
                                                                  2,190 mL
                                                                  1,640 mL
   Urine:
                                                                  2,190 mL
                                                                  1,640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -338 mL
                                                                   -878 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///37/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : decreased BS bilateral)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x3,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   153 K/uL
   91 mg/dL
   0.8 mg/dL
   37 mEq/L
   4.2 mEq/L
   16 mg/dL
   101 mEq/L
   141 mEq/L
   31.2 %
   5.1 K/uL
        [image002.jpg]
                             [**2118-5-16**]  09:34 PM
                             [**2118-5-17**]  04:18 AM
                             [**2118-5-17**]  03:20 PM
                             [**2118-5-18**]  03:45 AM
                             [**2118-5-19**]  03:39 AM
   WBC
   4.9
   4.7
   5.1
   Hct
   31.3
   29.6
   29.3
   31.2
   Plt
   142
   146
   153
   Cr
   0.7
   0.7
   0.8
   TCO2
   46
   Glucose
   138
   103
   91
   Other labs: PT / PTT / INR:14.7/26.8/1.3, Lactic Acid:1.6 mmol/L,
   Ca++:8.8 mg/dL, Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Sputum: [**5-17**] proteus spp
   Assessment and Plan
 HYPERTENSION, BENIGN
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   75M with copd on home O2, presented with altered mental status and
   hypercarbic respiratory failure. Not clear what came first but makes
   most sense that COPD exacerbation is the primary insult:
   extubated [**5-18**]
   COPD exacerbation: likely with a infectious component (proteus in
   sput). Based on elevated HCO3
   -cont steroids and nebs (2 week taper)
   -cont levoflox ([**5-16**]). Sputum: proteus mirab.  Add mucinex/ acapella to
   Rx
   Still smoking and wishes to continue
   Hx of seizure disorder: on depakote
   - depakote level.
   Remaining issues per ICU resident note. Stable for transfer to the
   floor.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2118-5-18**] 07:08 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: N/A
   Comments: remove foley catheter
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes